* D:\Developments\Elektronika\Motor Control\Projects\FOC Servo\Scheme and Board\Work\VoltageSensing\VoltageSensing.asc
R5 N001 N005 {R_1}
R6 N008 N007 {R_1}
R7 N002 N001 {R_2}
R8 1.65V N008 {R_2}
C2 N002 N001 {C_2}
XU2 N008 N001 3.3V 0 N002 LT1884
R9 N005 V {R_1}
R10 N007 U {R_1}
C3 N007 N005 {C_1}
V6 3.3V 0 3.3
V7 1.65V 0 1.65
C7 1.65V N008 {C_2}
R1 N003 N006 {R_1}
R2 N010 N009 {R_1}
R3 N004 N003 {R_2}
R4 1.65V N010 {R_2}
C1 N004 N003 {C_2}
XU1 N010 N003 3.3V 0 N004 LT1884
R11 N006 W {R_1}
R12 N009 V {R_1}
C4 N009 N006 {C_1}
C5 1.65V N010 {C_2}
R13 N011 N014 {R_1}
R14 N016 N015 {R_1}
R15 N012 N011 {R_2}
R16 1.65V N016 {R_2}
C6 N012 N011 {C_2}
XU3 N016 N011 3.3V 0 N012 LT1884
R17 N014 U {R_1}
R18 N015 W {R_1}
C8 N015 N014 {C_1}
C9 1.65V N016 {C_2}
V3 U 0 SINE(0 220 50 0 0 0)
V4 V 0 SINE(0 220 50 0 0 120)
V8 W 0 SINE(0 220 50 0 0 240)
R22 U N013 100k
R23 V N013 100k
R24 W N013 100k
.tran .05
.parm R_1 200k
.parm R_2 1.5k
.parm C_1 1n
.parm C_2 100p
.lib LTC.lib
.backanno
.end
